US07390903B2
To a stirred solution of 50 mg (0.17 mmol) (2-amino-4,5,6,7-tetrahydro-benzo[b]thiophen-3-yl)-(4-methoxy-phenyl)-methanone in 1.5 ml acetic acid was added 0.018 ml (0.18 mmol) of pentane-2,4-dione and one drop of sulfuric acid. The mixture was then stirred at 100° C. for 10 minutes in a microwave and then concentrated in vacuo. Flash chromatography (heptane/ethyl acetate 9:1) afforded 38 mg (62%) 1-[4-(4-methoxy-phenyl)-2-methyl-5,6,7,8-tetrahydro-benzo[4,5]thieno[2,3-b]pyridin-3-yl)-ethanone as a light yellow solid. ES-MS m/e (%): 352 (M+H+, 100).

reactant | (2-amino-4,5,6,7-tetrahydro-benzo[b]thiophen-3-yl)-(4-methoxy-phenyl)-methanone | 0.17 mmol, 50 mg | NC1=C(C2=C(S1)CCCC2)C(=O)C2=CC=C(C=C2)OC | C16H17NO2S
reactant | pentane-2,4-dione | 0.18 mmol, 0.018 ml | CC(CC(C)=O)=O | C5H8O2
solvent | acetic acid | 1.5 ml | C(C)(=O)O | C2H4O2
catalyst | sulfuric acid | one drop | S(O)(O)(=O)=O | H2O4S
product | 1-[4-(4-methoxy-phenyl)-2-methyl-5,6,7,8-tetrahydro-benzo[4,5]thieno[2,3-b]pyridin-3-yl)-ethanone | 38 mg, 62% | COC1=CC=C(C=C1)C1=C2C(=NC(=C1C(C)=O)C)SC1=C2CCCC1 | C21H21NO2S
